US06943252B2
Alternative Preparation of 4-chloro-2-(N-cyano-N-methylamino)-6-[(4methyl)-piperidin-1-yl]-5-phenylpyrimidine
To a solution of 4-chloro-6-[(4-methyl)-piperidin-1-yl]-2-methylsulfonyl-5-phenyl-pyrimidine (0.5 g, 1.37 mmol) in dimethylformamide (6 ml) was added potassium carbonate (0.38 g, 2.73 mmol) followed by methyl cyanamide (0.31 g, 5.47 mmol). After stirring the reaction mixture at room temperature for 19 hours the reaction mixture was diluted with water (75 ml), and extracted with ethyl acetate (75 ml). The organic phase was washed with water (75 ml), followed by saturated brine (75 ml), dried over magnesium sulfate and concentrated in vacuo to afford a yellow syrup. The crude product was chromatographed an silica gel eluting with 90:10 v/v hexane:ethyl acetate to afford 0.39 g (84% yield) of the title compound as a cololess syrup.

reactant | 4-chloro-6-[(4-methyl)-piperidin-1-yl]-2-methylsulfonyl-5-phenyl-pyrimidine | 1.37 mmol, 0.5 g | ClC1=NC(=NC(=C1C1=CC=CC=C1)N1CCC(CC1)C)S(=O)(=O)C | C17H20ClN3O2S
reactant | potassium carbonate | 2.73 mmol, 0.38 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl cyanamide | 5.47 mmol, 0.31 g | CNC#N | C2H4N2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
solvent | water | 75 ml | O | H2O
product | 4-chloro-2-(N-cyano-N-methylamino)-6-[(4methyl)-piperidin-1-yl]-5-phenylpyrimidine | 0.39 g, 84% yield | ClC1=NC(=NC(=C1C1=CC=CC=C1)N1CCC(CC1)C)N(C)C#N | C18H20ClN5
